US05459137
1-(4-Aminophenyl)-3-(N-methylglycyl)-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine
1.03 g (15.3 mmol) of methylamine hydrocdhloride and 2.64 ml (18.3 mmol) of triethylamine were added to a suspension containing 1.23 g (3.06 mmol) of 1-(4-nitrophenyl)-3-chloroacetyl-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine in 140 ml of ethanol and the reaction mixture was refluxed for 10 hours, then evaporated under reduced pressure. The residue was dissolved in 30 ml of chloroform, washed with 20 ml of 4% NaOH solution, then 2×20 ml of water, dried and evaporated under reduced pressure. The residue was reduced according to the process of Example 16 and the product obtained was purified by column chromatography (adsorbent: Kieselgel 60, eluent: methanol--benzene 4:1). The crude product obtained was triturated with 5 ml of ethyl acetate at 25° C. to obtain 0.60 g (53.6%) of the aimed product, m.p. 198°-200° C. (weak decomp.).

reactant | methylamine | 15.3 mmol, 1.03 g | CN | CH5N
reactant | triethylamine | 18.3 mmol, 2.64 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(4-nitrophenyl)-3-chloroacetyl-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine | 3.06 mmol, 1.23 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=NN(C(CC2=C1C=C1C(=C2)OCO1)C)C(CCl)=O | C19H16ClN3O5
solvent | ethanol | 140 ml | C(C)O | C2H6O
product | 1-(4-Aminophenyl)-3-(N-methylglycyl)-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine | 0.60 g, 53.6% | NC1=CC=C(C=C1)C1=NN(C(CC2=C1C=C1C(=C2)OCO1)C)C(CNC)=O | C20H22N4O3
